US05580981
Z-Phe-OAt is reacted with valine methyl ester in DMF in accordance with the procedure described in Example 33 to form Z-Phe-Val.

reactant | Z-Phe | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H17NO4
reactant | valine methyl ester | COC([C@@H](N)C(C)C)=O | C6H13NO2
solvent | DMF | CN(C)C=O | C3H7NO
product | Z-Phe-Val | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C22H26N2O5
